US05411973
1,1,1-Trifluoro-2-methyl-3-(4-benzoylphenoxy)propan-2-ol.
A suspension of trimethylsulfoxonium iodide (8.57 g, 38.9 mmol) in 50 mL of dichloromethane cooled to 0° C. was treated with a solution of KOH (2.18 g, 38.9 mmol) in water (40 ml). The ylide was treated with trifluoroacetone (4.36 g, 38.9 mmol) and the reaction was maintained at 0° C. for 0.5 hours followed by reflux for 1.5 hours. The reaction was cooled to 0° C. and treated with a solution of 4-Hydroxybenzophenone (7.72 g, 38.9 mmol), KOH (2.18 g, 38.9 mmol) in water/ethanol (40 ml/5 ml). The mixture was treated with N-benzyltrimethylammonium hydroxide (8.46 g, 50.6 mmol) and then refluxed for 18 hours. The mixture was poured into ice-water and extracted with dichloromethane. The combined extracts were dried and evaporated to yield a brown oil. Chromatography of this oil, eluting with dichloromethane/hexane/ethyl acetate provided the title compound as a white solid (1.7 g); mp 70° -73° C. NMR: 1.45 (s,3, CH3), 4.16 (q,2, CH2), 6.44 (s,1, OH), 7.16 (dd,2, J=7,2, Ar), 7.65 (m,7, Ar); MS: m/z=325(M+1). Analysis for C17H15F3O3 : Calculated: C, 62.96; H, 4.66; Found: C, 62.71: H, 4.61.

reactant | trimethylsulfoxonium iodide | 38.9 mmol, 8.57 g | [I-].C[S+](=O)(C)C
reactant | KOH | 38.9 mmol, 2.18 g | [OH-].[K+]
reactant | trifluoroacetone | 38.9 mmol, 4.36 g | FC(C(C)=O)(F)F | C3H3F3O
reactant | 4-Hydroxybenzophenone | 38.9 mmol, 7.72 g | OC1=CC=C(C(=O)C2=CC=CC=C2)C=C1 | C13H10O2
reactant | KOH | 38.9 mmol, 2.18 g | [OH-].[K+]
reactant | N-benzyltrimethylammonium hydroxide | 50.6 mmol, 8.46 g | [OH-].C(C1=CC=CC=C1)[N+](C)(C)C
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
solvent | water | 40 ml | O | H2O
solvent | water ethanol | 40 ml | O.C(C)O
product | 1,1,1-Trifluoro-2-methyl-3-(4-benzoylphenoxy)propan-2-ol | 1.7 g | FC(C(COC1=CC=C(C=C1)C(C1=CC=CC=C1)=O)(O)C)(F)F | C17H15F3O3
